US04638000
In 1 ml of acetic acid is dissolved 0.5 g of tert-butyl 3(R)-[6-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and 2 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by allowing the mixture to stand at room temperature for 1 hour. Ethyl ether (200 ml) is added to the reaction solution, which is then allowed to stand. The supernatant liquid is decanted, and the precipitate is dissolved in 20 ml of 1N aqueous sodium hydroxide solution, followed by allowing the solution to stand at room temperature for 30 minutes. The solution is neutralized by adding 2 ml of acetic acid, and purified by MCI-gel column chromatography (water:methanol=1:2). The eluent is concentrated under reduced pressure, and the residue is lyophilized to give 0.23 g of 3(R)-[1(R)-carboxy-6-(4-piperidyl)hexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | tert-butyl 3(R)-[6-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C37H51N3O7S
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
reactant | Ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3(R)-[1(R)-carboxy-6-(4-piperidyl)hexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.23 g | C(=O)(O)[C@@H](CCCCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C23H33N3O5S
